US07211601B2
(2S,4EZ)-N-(3-hydroxypropyl)-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]-4-carboxylic acid, and 3-amino-1-propanol, the title compound was obtained in 90% purity by HPLC. MS(ESI+): m/z=410.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | 3-amino-1-propanol | NCCCO | C3H9NO
product | (2S,4EZ)-N-(3-hydroxypropyl)-4-(methoxyimino)-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-2-pyrrolidinecarboxamide | OCCCNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C23H27N3O4
